US07312359B2
6-Benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one
Similarly prepared using the above procedure with 3-chlorobenzenethiol in step 4, was 6-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-naphthalen-1-one. MS: 287 (M+H)+.

reactant | 3-chlorobenzenethiol | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | 6-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-naphthalen-1-one | ClC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)=O | C16H13ClO3S
product | 6-Benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)=O | C16H14O3S
